US07935815B2
Synthesis of tert-butyl (3-benzyl-2-oxopiperidin-1-yl)carbamate
10% palladium-carbon powder (50.36% aqueous, 1.92 g) was added to a solution of the (E)/(Z) mixture of tert-butyl N′-[5-chloro-2-(1-phenylmethylidene)pentanoyl]hydrazinecarboxylate obtained in the process of Example 12 in ethanol (20 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for 10 days. Thereafter, the reaction solution was filtered through celite and the solvent was evaporated under reduced pressure. DBU (0.598 mL) was added to a solution of the resulting residue in THF (50 mL) and the mixture was heated under reflux for 44 hours. Thereafter, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 727 mg of the title compound. The property values of the compound are as follows.

reactant | tert-butyl N′-[5-chloro-2-(1-phenylmethylidene)pentanoyl]hydrazinecarboxylate | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)=CC1=CC=CC=C1 | C17H23ClN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.92 g | [C].[Pd]
product | tert-butyl (3-benzyl-2-oxopiperidin-1-yl)carbamate | 727 mg | C(C1=CC=CC=C1)C1C(N(CCC1)NC(OC(C)(C)C)=O)=O | C17H24N2O3
